US06133292
Step 1: 2-methyl-1-[4-(methylthio)phenyl]-1-butanone
A 500 mL RBF equipped with a mechanical stirrer was charged with AlCl3 (35.4 g) and CHCl3 (300 mL) and cooled in an ice bath. Then 2-methylbutanoyl chloride (31.4 g) was added over 0.5 h to the ice-cold suspension. Keeping the internal temperature <10° C., thioanisole (31.2 mL) was added dropwise over 1 h. After completion of addition, the resulting mixture was stirred at r.t. for 2 h. The resulting suspension was poured onto an ice-water mixture and stirred until decoloraton. The organic layer was separated, washed with water, dried over Na2SO4 and concentrated to dryness. The resulting white solid was swished in hexane and collected by filtration to give the title compound as a white solid. 1H NMR(CD3COCD3): δ0.88 (3H, t), 1.12 (3H, d), 1.47 (1H, m), 1.78 (1H, m), 2.57 (3H, s), 3.49 (1H, m), 7.37 (2H, d), 7.93 (2H, d).

reactant | AlCl3 | 35.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-methylbutanoyl chloride | 31.4 g | CC(C(=O)Cl)CC | C5H9ClO
reactant | thioanisole | 31.2 mL | C1(=CC=CC=C1)SC | C7H8S
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-1-[4-(methylthio)phenyl]-1-butanone | CC(C(=O)C1=CC=C(C=C1)SC)CC | C12H16OS
